US05078907
Preparation of Monophenyl Terephthaloyl Chloride
This compound was prepared in a manner similar to that for monomethyl terephthaloyl chloride. However, in this procedure the thionyl chloride was used as both reagent and solvent. Typical reagent levels were as follows: potassium monophenyl terephthalate (6.8 g, 0.024 mole) and 7 ml of thionyl chloride. After workup the product was used without further purification.

reactant | monomethyl terephthaloyl chloride | CC1=C(C(=O)Cl)C=CC(=C1)C(=O)Cl | C9H6Cl2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | potassium monophenyl terephthalate | 0.024 mole, 6.8 g | C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC1=CC=CC=C1.[K+]
reactant | thionyl chloride | 7 ml | S(=O)(Cl)Cl | Cl2OS
product | Monophenyl Terephthaloyl Chloride | C1(=CC=CC=C1)C1=C(C(=O)Cl)C=CC(=C1)C(=O)Cl | C14H8Cl2O2
